US08809389B2
a) Synthesis of 5-[2-(2-butoxyethoxy)-ethoxy] benzo[1.3]dioxole
34.04 g (0.105 moles) of 2-(2-butoxyethoxy)-ethyl tosylate (95%) were reacted with 14.5 g (0.105 moles) of 5-hydroxy-benzo[1.3]dioxole and 14.5 g (0.105 moles) of anhydrous potassium carbonate in 125 ml of acetone. The mixture was heated to reflux for 2 hrs, cooled to room temperature and kept, under stirring, at that temperature for 6 hrs. The mixture was then filtered and the organic solution was evaporated u.v. (20° C./21 mbar) . The residue was diluted with 100 ml of dichloromethane and washed with 12 ml of an aqueous solution of sodium hydroxide 1N and water. The organic phase was separated, washed with water and evaporated u.v (20° C./21 mbar). An oil residue was obtained that was purified on silica gel column (eluant n-hexane:ethyl acetate 4:1 v/v). After evaporation 14.84 g (97.43%) of 5-[2-(2-Butoxy-ethoxy)-ethoxy]-benzo[1,3]dioxole were obtained whose NMR and MS analyses corresponded to those of the aforementioned compound.

reactant | 2-(2-butoxyethoxy)-ethyl tosylate | 0.105 moles, 34.04 g | S(=O)(=O)(OCCOCCOCCCC)C1=CC=C(C)C=C1 | C15H24O5S
reactant | 5-hydroxy-benzo[1.3]dioxole | 0.105 moles, 14.5 g | OC1=CC2=C(OCO2)C=C1 | C7H6O3
reactant | potassium carbonate | 0.105 moles, 14.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 125 ml | CC(=O)C | C3H6O
product | 5-[2-(2-butoxyethoxy)-ethoxy] benzo[1.3]dioxole | C(CCC)OCCOCCOC1=CC2=C(OCO2)C=C1 | C15H22O5
